US06919324B2
2′-Hydroxy-3′-Disodium Phosphate-3,4,4′,5-tetramethoxy-(Z)-stilbene (ZSB-2A) 3′,5′-Dihydroxy-3,4,4′,5-tetramethoxy-(Z)-stilbene (ZSB-1B) (0.27 g, 80%). 1H NMR (300 MHz): 3.67(6H, s), 3.79(3H, s), 3.86(3H, s), 4.96(2H, bs), 6.23(1H, d, J=12.28 Hz), 6.36(1H, d, J=12.2 Hz), 6.43(2H, s), 6.56(2H, s). 13C NMR (75.47 MHz): 55.92, 60.94, 61.14, 106.2, 108.68, 129.19, 130.07, 132.29, 133.69, 134.02, 137.27, 148.62, 152.83. 3′,5′-Tetrasodium Phosphate-3,4,4′,5-tetramethoxy-(Z)-stilbene (ZSB-2B) 2′-Bromo-3′-Hydroxy-3,4,4′,5-tetramethoxy-(Z)-stilbene (ZSB-16) (530 mg, 51.5%, solid). HNMR (ppm, δ): 6.83(1H, d, J=8.5), 6.70(1H, d, J=8.5 Hz), 6.56(2H, s), 6.42(2H, s), 3.94(3H, s), 3.88(3H, s), 3.65(6H, s) CNMR(ppm, δ): 153.13, 146.36, 143.54, 137.54, 132.43, 131.52, 131.10, 129.14, 121.97, 110.61, 109.87106.44, 61.30, 56.83, 56.22 2′-Bromo-3′-Disodium Phosphate-3,4,4′,5-tetramethoxy-(Z)-stilbene (ZSB-17) (120.2 mg, 0.2.3 mmol, 71.4%) 1H-NMR(ppm, δ): 6.67( 1H, q), 6.52(1H, d, J=11.9 Hz), 6.43(1H, d, J=12.4 Hz), 6.36(2H, s), 3.63(3 H,s), 3.55(6H, s), 3.47(3H, s) 13-CNMR(ppm, δ, CDCl3): 152.32, 133.50, 130.96, 130.74, 129.96, 125.06, 111.69, 106.71, 61.17, 56.11. P-NMR (ppm, δ): 1.06. 2′-hydroxy-3,3′,4,4′,5-pentamethoxy-(Z)stilbene (ZSB-18) (1.49 g 4.3 mmol, 82.7%) HNMR(ppm, δ, CDCl3): 7.27( 1H, d, J=12.3 Hz), 7.08(1H, d, J=8.3 Hz), 7.03(1H, d, J=13.5 Hz), 6.75(2H, s), 6.53(1H, d, J=8.6 Hz), 3.92(6H, s), 3.90(6H, s), 3.88(3H, s). CNMR(ppm, δ, CDCl3): 153.70, 152.05, 147.73, 137.83, 135.86, 134.36, 128.09, 123.12, 122.15, 118.11, 104.43, 103.66, 61.39, 56.50, 56.27. 2′-Disodium Phosphate-3,3′,4,4′,5-pentamethoxy-(Z)stilbene (ZSB-19) (97 mg, 0.21 mmol, 42%, solid) 1H-NMR(ppm, δ, D2O): 7.25(1H, d, J=12.3 Hz), 7.08(1H, d, J=8.3 Hz), 6.93(1H, d, J=13.6 Hz), 6.83 (1H, d, J=8.6 Hz), 6.71(2H, s). PNMR (ppm, δ, D2O): 2.97 3′-hydroxy-3,4,4′,5,5′-pentamethoxy-(Z)stilbene (ZSB-20) (560 mg 1.62 mmole, 62.3%). 1H-NMR (ppm,δ,CDCl3): 6.88(2H, s), 6.80(1H, s), 6.72(2H, s), 6.63(1H, s), 3.92(12H, s), 3.86(3H,s) C-NMR(ppm, δ, CDCl3): 153.79, 152.84, 149.83, 135.70, 133.83, 133.37, 128.70, 128.30, 106.47, 103.84, 102.86, 61.40, 60.83. 56.52, 56.27. 3′-Hydroxy-2′,3,4,4′,5-pentamethoxy-(Z)-stilbene (ZSB-27A) (251.5 mg, 0.726 mmol, 72.6%) 1H-NMR (300 MHz, CDCl3): δ 6.73 (d, J=8.7 Hz, 1H), 6.58 (d. J=12.3 Hz, 1H), 6.52-6.44 (m, 4H), 5.80 (s, 1H), 3.85, 3.79 (s,s, 9H), 3.63(s, 6H).CDCl3): δ 153.1, 147.5, 145.8, 138.9, 137.4, 133.0, 130.4, 125.4, 124.2, 120.9, 120.6, 106.8, 106.4, 61.3, 61.2, 56.7, 56.6, 56.2. 3′-Disodium Phosphate-3,3′,4,4′,5-pentamethoxy-(Z)-stilbene (ZSB 27B) (117.8 mg, 0.25 mmol, 73.7%, solid). 1H-NMR (300 MHz, D2O): δ 6.70 (d, J=8.4 Hz, 1H), 6.55 (d,d J=12.1 Hz, 5.5 Hz, 1H), 3.70, 3.56, 3.48, (s,s,s, 15H). 13C-NMR (300 MHz, D2O): δ 153.2, 152.3, 150.9, 137.1, 136.9, 136.0, 134.0, 126.5, 124.2, 124.1, 108.3, 106.7, 61.2, 61.1, 56.2, 56.1. 31P-NMR (300 MHz, D2O): δ 1.43 4′-hydroxy-2′-Iodo-3,4,5,5′-tetramethoxy-(Z)-stilbene (ZSB-29A) (0.72 g, 1.5 mmol, 88%, oil). 1H-NMR (CDCl3, 300 MHz): δ 3.67 (s, 3H); 3.73 (s, 6H); 3.84 (s, 3H); 6.09 (s, 1H); 6.39 (d, J=12.1, 1H); 6.47 (d, J=12.1, 1H); 6.53 (s, 2H); 6.74 (d, J=1.6, 1H); 7.30 (d, J=1.6, 1H). 4′-Disodium Phosphate-2′-Iodo-3,4,5,5′-tetramethoxy-(Z)-stilbene (ZSB-29B) 2′,5′-Dihydroxy-3,4,4′,5-tetramethoxy-(Z)-stilbene (ZSB-33A) 2′,5′-Tetrasodium Diphosphate-3,4,4′,5-tetramethoxy-(Z)-stilbene (ZSB-33B) 2′,3′-Dihydroxy-3,4,5-trimethoxy-(Z)-stilbene (ZSB-36A) (0.5 g, 1.65 mmol, 43.3%) 1H-NMR (CDCl3, 300 MHz): δ 3.63 (6H,s,2*OCH3); 3.83(3H, s, OCH3), 5.10 (1H,s, OH), 5.50 (1H,s,OH), 6.47 (2H,s,H-2,H-6), 6.53 (1H,d,J=12.04 Hz, —CH═CH—), 6.60 (1H,d,J=12.06 Hz, —CH═CH—), 6.92 (3H,m,H-4′,H-5′,H-6′). 2′,3′-Diphosphate-3,4,5-trimethoxy-(Z)-stilbene (ZSB-36B) (0.036 g, 0.071 mmol, 59.1%, solid) 1H-NMR (300 MHz, D2O): δ 3.69 (6H,s,2*OCH3); 3.77 (3H, s, OCH3), 6.66 (2H,s, H-2,H-6), 6.73 (1H,d,J=12.02 Hz, —CH═CH—), 6.86 (1H,d,J=12.21 Hz, —CH═CH—), 6.98 (2H,m,H-5′,H-6′), 7.24 (20H, m, 4*C6H6), 7.36 (1H,d,J=7.14 Hz, H-4′) PNMR (300 Mhz, D2O) δ −3.27, −3.88. 3′,4′Dihydroxy-3,4,5-trimethoxy-(Z)-stilbene (ZSB-37A) 3′,4′Diphosphate-3,4,5-trimethoxy-(Z)-stilbene (ZSB-37B) 1H-NMR (ppm, δ, D2O): 6.77 (1H,s); 6.73 (2H, q); 6.52 (2H, s); 6.46 (1H,d,J=12.1 Hz), 6.41 (1H,d, J=12.1, 1H), 3.88 (3 H,s), 3.72 (6H,s). PNMR (ppm, δ, D2O): −3.69. 4′-hydroxy-3,4,5-trimethoxy-(Z)-stilbene (ZSB-40A) (ZSB-40B) 4′-phosphate-3,4,5-trimethoxy-(Z)-stilbene (85 mg, 0.20 mmol, 30.0%). 1H-NMR (ppm, δ): 7.13 (1H,d, J=8.3 Hz), 7.00(1H,d, J=8.3 Hz), 6.59 (2H,s), 6.56 (1H,d,J=13.00), 6.45(1H,d,J=12.1 Hz), 3.67(3H,s). 13C-NMR(ppm, δ): 153.00, 133.50, 130.00, 129.80, 129.76, 125.00, 120.05, 119.50, 108.00, 106.44, 61.00, 56.01. PNMR (ppm, δ): 0.10. 2′-Fluoro-3′-Hydroxy-3,4,4′,5-tetramethoxy-(Z)-stilbene (ZSB-41A) (126 mg, 0.37 mmol, 74.8%). 1H-NMR (300 MHz, CDCl3): δ 6.79 (t, J=8.4 Hz, 1H), 6.57-6.50 (m, 5H), 3.86(s, 3H), 3.85 (s, 3H), 3.80,(s, 6H). 13C-NMR (300 MHz, CDCl3): δ 153.2, 150.6, 147.9, 147.4, 137.6, 134.4, 134.2, 132.8, 131.6, 122.33, 122.29, 120.27, 1 119.25, 119.08, 106.3, 61.29, 56.78, 56.25 (ZSB-41B) 2′-Fluoro-3′-Disodium Phosphate-3,4,4′,5-tetramethoxy-(Z)-stilbene 2′-Hydroxy-3,4,4′,5-tetramethoxy-(Z)-stilbene (ZSB-46A) (620 mg, 55%, solid). HNMR(ppm, δ, CDCl3): 7.43(1H, J=8.6 Hz), 7.20(1H, d, J=16.3 Hz), 6.94(1H, d, J=16.3 Hz), 6.74(2H, s), 6.55(1H, d, J=8.3 Hz), 3.92(6H, s), 3.88(3H, s), 3.81(3H, s). 2′-Disodium Phosphate-3,4,4′,5-tetramethoxy-(Z)-stilbene (ZSB-46B) HNMR(ppm, δ, D2O): 7.49(1H,d0, 7.36 (1H,d), 6.94 (4H,m), 6.57 (4H,d), 3.77(6H,s), 3.71(3H,s), 3.65 (3H,s). PNMR(ppm, δ, D2O): 1.26. 3,5-Dinitro-3,4,4′,5-tetramethoxy-(Z)-stilbene (ZSB-13) 3′,5′-Diamine-3,4,4′,5-tetramethoxy-(Z)-stilbene (ZSB-14) 1H NMR (CDCl3, 360 MHz) δ 6.56 (s, 2H), 6.41 (d, 1H, J=12.2 Hz), 6.34 (d,1H, J=12.2 Hz), 6.14 (s, 2H), 3.82 (s, 3H), 3.72 (s, 3H), 3.70 (s, 6H ). 3′,5′-Diserinamide-3,4,4′,5-tetramethoxy-(Z)-stilbene (ZSB-15) 2′-Nitroso-3′hydroxy-3,4,4′,5-tetramethoxy-(Z)-stilbene (ZSB-28A) (80 mg, 0.23 mmole, 65%, solid) 1H NMR: 3.64 (s, 6H, 2×OCH3); 3.81 (s, 3H, OCH3); 3.92 (s, 3H, OCH3); 6.30 (s, 2H, aryl); 6.59 (d, J=12, 1H); 6.68 (d, J=12, 1H); 6.78(b, J=8.4, 1H); 6.92 (d, J=8.4, 1H). 2′-Nitro-3,4,4′,5-tetramethoxy-(Z)-stilbene (ZSB-39A) (5.29 g ,81% yield) 1H NMR (CDCl3, 300 MHz) δ 7.59 (d, 1H, J=2.7 Hz),7.24 (d, 1H, J=8.8 Hz), 7.01 (dd, 1H, J=8.7, 2.7 Hz), 6.80 (d,1 H, J=11.9 Hz), 6.62 (d, 1H, J=12.0 Hz), 6.28 (s, 2H), 3.93 (s, 3H), 3.86 (s, 3H), 3.62 (s,6H ). 2′-Amino-3,4,4′,5-tetramethoxy-(Z)-stilbene (ZSB-39B) (0.817 g, 38%). 1H NMR (CDCl3, 360 MHz) δ 7.03 (d, 1H, J=8.4 Hz), 6.51 (s,2H ), 6.49 (d,1H, J=11.6 Hz), 6.42 (d, 1H, J=12 Hz), 6.30 (dd, 1H, J=8.4, 2.5 Hz), 6.25 (d, 1H, J=2.4 Hz), 3.80 (s, 3H), 3.75 (s, 3H), 3.64 (s, 6H ), 1.55 (br, 1H). 2′-Serinamide-3,4,4′,5-tetramethoxy-(Z)-stilbene (ZSB-45) (0.817 g, 38%). 1H NMR (CDCl3, 360 MHz) δ 7.03 (d, 1H, J=8.4 Hz), 6.51 (s,2H), (d,1H, J=11.6 Hz), 6.42 (d, 1H, J=12 Hz), 6.30 (dd, 1H, J=8.4,2.5 Hz), 6.25 (d, 1H, J=2.4 Hz), 3.80 (s, 3H), 3.75 (s, 3H), 3.64 (s, 6H ), 1.55 (br, 1H). 3′-Hydroxy, 5′-Nitro-3,4,4′,5-tetramethoxy-(Z)-stilbene (ZSB-43) 1H NMR (CDCl3, 300 MHz): 3.72 (s, 6H), 3.85 (s, 3H), 3.94 (s, 3H), 6.42 (d, 1H, J=12.1 Hz), 6.47 (s, 2H), 6.61 (d, 1H, J=12.1), 7.16 (d, 1H, J=2.0 Hz), 7.39 (d, 1H, J=2.0 Hz). 13C NMR (CDCl3, 75 MHz): 56.04, 61.00, 62.54, 106.06, 117.286, 120.73, 126.81, 131.34, 132.38, 133.92, 137.92, 139.80, 142.64, 150.15, 153.18. 3′-Hydroxy, 5′-Amino-3,4,4′,5-tetramethoxy-(Z)-stilbene (ZSB-44) (60 mg, 15%, oil). 1H NMR (CDCl3, 300 MHz): 3.71 (s, 6H), 3.78 (s, 3H), 3.84 (s, 3H), 6.27 (d, 1H, J=1.9), 6.35 (d, 1H, J=1.9), 6.41 (d, 2H, J=1.5), 6.54 (s, 2H). 2′-Amino-3′hydroxy-3,4,4′,5-tetramethoxy-(Z)-stilbene (ZSB-48) (90.5 mg, 82%, oil) 1H NMR (CDCl3, 300 MHz): 3.64 (s, 6H), 3.81 (s, 3H), 3.84 (s, 3H), 6.32 (d, 1H, J=8.4), 6.45 (d, 1H, J=12.1), 6.51 (d, 1H, J=12.0), 6.51 (s, 2H), 6.68(d, 1H, J=8.4). 13C NMR (CDCl3, 75 MHz): 55.7, 56.1, 60.8, 101.1, 105.9, 117.6, 120.1, 125.7, 130.9, 132.1, 132.2, 132.6, 137.2, 145.7, 152.7. CA4P Diethyl Ester (Oxi-com 157) CA4P Dimethyl Ester (Oxi-com 184) CA4P Cyclohexane Ester, Ammonium Salt (Oxi-com 191) CA4P 4-Chlorobenzyl Ester, Ammonium Salt (Oxi-com-192) CA4P n-Octyl Ester, Ammonium Salt (Oxi-com 210) CA4P Trifluoroethane Ester, Ammonium Salt (Oxi-com 211)

reactant | 2′-hydroxy-3,3′,4,4′,5-pentamethoxy-(Z)stilbene | 4.3 mmol, 1.49 g | OC1=C(\C=C/C2=CC(=C(C(=C2)OC)OC)OC)C=CC(=C1OC)OC | C19H22O6
reactant | 3′-hydroxy-3,4,4′,5,5′-pentamethoxy-(Z)stilbene | 1.62 mmole, 560 mg | OC=1C=C(\C=C/C2=CC(=C(C(=C2)OC)OC)OC)C=C(C1OC)OC | C19H22O6
reactant | 4′-hydroxy-2′-Iodo-3,4,5,5′-tetramethoxy-(Z)-stilbene | 1.5 mmol, 0.72 g | OC1=CC(=C(\C=C/C2=CC(=C(C(=C2)OC)OC)OC)C=C1OC)I | C18H19IO5
reactant | 2′,5′-Dihydroxy-3,4,4′,5-tetramethoxy-(Z)-stilbene | OC1=C(\C=C/C2=CC(=C(C(=C2)OC)OC)OC)C=C(C(=C1)OC)O | C18H20O6
reactant | 2′,3′-Dihydroxy-3,4,5-trimethoxy-(Z)-stilbene | 1.65 mmol, 0.5 g | OC1=C(\C=C/C2=CC(=C(C(=C2)OC)OC)OC)C=CC=C1O | C17H18O5
reactant | 3′,4′Dihydroxy-3,4,5-trimethoxy-(Z)-stilbene | OC=1C=C(\C=C/C2=CC(=C(C(=C2)OC)OC)OC)C=CC1O | C17H18O5
reactant | 4′-hydroxy-3,4,5-trimethoxy-(Z)-stilbene | OC1=CC=C(\C=C/C2=CC(=C(C(=C2)OC)OC)OC)C=C1 | C17H18O4
reactant | 3,5-Dinitro-3,4,4′,5-tetramethoxy-(Z)-stilbene | [N+](=O)([O-])C1(CC(=CC(C1OC)(OC)[N+](=O)[O-])\C=C/C1=CC=C(C=C1)OC)OC | C18H22N2O8
catalyst | 3′,5′-Dihydroxy-3,4,4′,5-tetramethoxy-(Z)-stilbene | 0.27 g | OC=1C=C(\C=C/C2=CC(=C(C(=C2)OC)OC)OC)C=C(C1OC)O | C18H20O6
catalyst | 2′-Bromo-3′-Hydroxy-3,4,4′,5-tetramethoxy-(Z)-stilbene | 530 mg | BrC1=C(\C=C/C2=CC(=C(C(=C2)OC)OC)OC)C=CC(=C1O)OC | C18H19BrO5
catalyst | 3′-Hydroxy-2′,3,4,4′,5-pentamethoxy-(Z)-stilbene | 0.726 mmol, 251.5 mg | OC=1C(=C(\C=C/C2=CC(=C(C(=C2)OC)OC)OC)C=CC1OC)OC | C19H22O6
catalyst | 2′-Fluoro-3′-Hydroxy-3,4,4′,5-tetramethoxy-(Z)-stilbene | 0.37 mmol, 126 mg | FC1=C(\C=C/C2=CC(=C(C(=C2)OC)OC)OC)C=CC(=C1O)OC | C18H19FO5
catalyst | 2′-Nitroso-3′hydroxy-3,4,4′,5-tetramethoxy-(Z)-stilbene | 0.23 mmole, 80 mg | N(=O)C1=C(\C=C/C2=CC(=C(C(=C2)OC)OC)OC)C=CC(=C1O)OC | C18H19NO6
product | 2′-Nitro-3,4,4′,5-tetramethoxy-(Z)-stilbene | 5.29 g, 81% yield | [N+](=O)([O-])C1=C(\C=C/C2=CC(=C(C(=C2)OC)OC)OC)C=CC(=C1)OC | C18H19NO6
